US07371743B2
(a) methyl 3-chloro-4-nitroso-benzoate
8.00 g (29.6 mmol) potassium peroxodisulphate are added to 6.0 ml of conc. sulphuric acid with stirring, stirred for 30 minutes at ambient temperature under a nitrogen atmosphere, the mixture is stirred into 50 g ice and neutralised with 14 g sodium carbonate. The solution obtained is combined with a suspension of 2.78 g (15.0 mmol) methyl 4-amino-3-chloro-benzoate in 300 ml of water and stirred for 16 hours at ambient temperature. The reaction mixture is suction filtered, the filter cake is washed with water, dried in the air and purified by chromatography on silica gel (eluant: petroleum ether/ethyl acetate 9:1).

reactant | potassium | 29.6 mmol, 8.00 g | [K] | K
reactant | sulphuric acid | 6.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | 14 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl 4-amino-3-chloro-benzoate | 15.0 mmol, 2.78 g | NC1=C(C=C(C(=O)OC)C=C1)Cl | C8H8ClNO2
solvent | water | 300 ml | O | H2O
product | methyl 3-chloro-4-nitroso-benzoate | ClC=1C=C(C(=O)OC)C=CC1N=O | C8H6ClNO3
